Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"My husband called ___
 
Major Surgical or Invasive Procedure:
No major procedures or surgeries.

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS
Per Dr. ___ (___) ED Initial Psychiatry 
Consult
note:

"This is a ___ year old woman with a psychiatric history notable
for alcohol use disorder (recently relapsed despite a recent
detox admission; uncomplicated w/d though no DT/sz), depression,
question of BPAD, anxiety, no inpatient hospitalizations or
suicide attempts, history of sexual trauma, and no known
pertinent medical history who presents in the setting of her
husband calling 911 due to concern for her safety.

Patient reports that she has not been doing well over the last
year, mainly because of her alcohol use and marital issues. She
is still married with her husband but anticipates that they may
ultimately separate. They continue to live together.

With respect to her drinking, states that she recently checked
herself in to rehab at ___, left approximately one month ago,
and has relapsed. States that recently she has been drinking ___
drinks daily.

Patient identifies today as especially stressful. Notes that she
and her husband had a meeting with ___ today that she found 
quite
stressful. She states that there have been concerns about her
son's safety around her due to her drinking and there is a 
chance
that she may lose custody (though has not lost custody yet). 

During this meeting, patient got very upset, left the meeting
abruptly, called a friend for support, who came over to her
place. After her friend arrived, her husband approached her with
several letters she had written a few days ago that she
identifies as "goodbye letters" that were written as a way to
relieve tension. She now thinks that these letters ___ be "held
against me." She denies that these letters are actually
notifications to others that she ___ harm herself, states that
she wrote these for herself, not for anyone else to find. She
says that the letters were addressed to her son and her husband.

Currently, patient identifies the situation of being in the
emergency department as a "nightmare" or "horror show" and
reiterates multiple times that she is not suicidal or homicidal. 


She identifies several support systems, including going to AA,
seeing a psychiatrist and therapist, relying on friends and
family. She says she is looking forward to a holiday break, and
feels like she just needs to go home and "relax" and
"recuperate." She states that because of the letters "the
situation is against me," but she is hoping to return to her 
life
of running, yoga, spending time with her son, and going to 
work."

 
Past Medical History:
PAST MEDICAL HISTORY
- PCP: Dr. ___ at ___ ___, ___
- PMHx: denies significant PMH
 
Social History:
SOCIAL HISTORY:
- B/R: Born in ___. Moved to ___ at the age of ___ or ___.
Moved to ___ after she married her husband.
- Family: Mother in ___, recently diagnosed and being treated for
breast cancer. Has 4 siblings; 2 in ___, 1 in ___, 1 in 
___.
- Relationship status: Married, one son, age ___. Reports that her
husband has episodes of "rage," during which he yells very
loudly. Has held their son against the wall out of frustration,
though patient denies physical abuse.
- Housing: Lives in ___ with husband and son. 
- Education: ___ in ___.
- Employment/income: ___ of ___ for ___. 
- Access to weapons: Denies
- Trauma history: States that she was raped when she was ___ and 
___
years old.

SUBSTANCE USE HISTORY
- EtOH: Has been having difficulties with drinking on and off.
Started drinking heavily after post-partum depression. Has also
had periods of sobriety for ___ years. +shakiness. no serious
w/d. Last drink ___, 3 glasses of wine. 
- Tobacco: denies
- Cannabis: denies
- Illicits: denies

FORENSIC HISTORY
- Patient denies forensic history. Husband states she was
recently charged with DUI.

 
Family History:
FAMILY PSYCHIATRIC HISTORY
- Mother w/ depression
- Aunt with unknown psychiatric diagnoses
- No history of suicide, SMI, or hospitalizations
 
Physical Exam:
EXAM
Vital Signs:
T 98.7, BP 132/84, HR 75, RR 18, O2 Sat 100%

GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, no scleral icterus
- Cardiovascular: regular rate and rhythm, S1/S2 heard, no
murmurs/rubs appreciated        
- Pulmonary: no increased work of breathing, lungs clear to
auscultation bilaterally, no wheezes/rhonchi/rales
- Abdominal: non-distended
- Extremities: warm and well-perfused
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: not tested
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline (pt reports unable to
significantly protrude tongue, chronic)
- Motor: normal bulk and tone bilaterally, mild resting hand
tremor in right hand, strength ___ throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: normal gait

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
- Calculations: not assessed
- Abstraction: not assessed
- Language: fluent ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS
- Appearance: woman appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
- Behavior: sitting comfortably in chair, appropriate eye
contact, no psychomotor agitation or retardation
- Attitude: cooperative, engaged
- Mood: "numb"
- Affect: somewhat frustrated and tearful, though contained
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies SI/HI   
     - Delusions: No evidence of paranoia 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight/ Judgment: fair/fair

 
Pertinent Results:
___ 03:45PM   ALT(SGPT)-17 AST(SGOT)-26 ALK PHOS-57 TOT 
BILI-0.4
___ 03:45PM   CHOLEST-232*
___ 03:45PM   %HbA1c-5.1 eAG-100
___ 03:45PM   TRIGLYCER-251* HDL CHOL-126 CHOL/HDL-1.8 
LDL(CALC)-56
___ 03:45PM   TSH-2.8
___ 03:45PM   Trep Ab-NEG
___ 05:44PM   GLUCOSE-89 UREA N-6 CREAT-0.8 SODIUM-143 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-24 ANION GAP-16
___ 05:44PM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 05:44PM   WBC-5.4 RBC-4.88 HGB-13.2 HCT-40.8 MCV-84 
MCH-27.0 MCHC-32.4 RDW-14.5 RDWSD-43.2
___ 05:44PM   NEUTS-55.3 ___ MONOS-9.0 EOS-1.5 
BASOS-0.9 IM ___ AbsNeut-3.01 AbsLymp-1.80 AbsMono-0.49 
AbsEos-0.08 AbsBaso-0.05
___ 05:44PM   PLT COUNT-209
___ 05:40PM URINE  UCG-NEGATIVE
___ 05:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG Fentanyl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was also placed on q15 minute 
checks status on admission with ___ sharps and remained on 
that level of observation throughout while being unit 
restricted.

2. PSYCHIATRIC:
Ms. ___ initially presented after her husband called ___, 
because of notes she had written with vague but somewhat ominous 
content (e.g., I may not be here when you wake up tomorrow). 
Husband was concerned that these were suicide notes. 

Collateral from Dr. ___ on ___ was significant for periods 
of decreased sleep and increased goal directed activity, which 
coincide with an increase in risky drinking, tending to occur in 
the ___ (3x), with no episodes of frank mania. Collateral 
also notable for poor response to antidepressants. Dr. ___ 
___ that
diagnosis was confounded by trauma history, and possible role of 
alcohol in mood symptoms, but thought that a trial of a mood 
stabilizer would be helpful. We decided, however, that it would 
be best to defer starting a mood stabilizer until
Ms. ___ achieves a period of stable sobriety. 

During her hospitalization, Ms. ___ met individually with her 
psychiatrists each day for therapy, and her outpatient 
antidepressant medications were continued (bupropion XL 150 mg 
PO daily and Lexapro 20 mg PO daily). Notably, in the ED she 
denied that her notes were suicide notes. And, while on the 
inpatient unit, when her team asked her about her ominous notes, 
she was somewhat dismissive of their seriousness and was unable 
to clarify why she had written them. Ms. ___ also consistently 
denied any thoughts, plan, or desire to harm herself while she 
was in the hospital. She was also forward-looking regarding her 
job, regarding working out a plan to spend time with her son, 
and regarding planning for her separation from her husband. For 
instance, on the day of discharge, she was considering staying 
in a ___ and looking into arranging for a longer-term 
apartment. When asked what she has to look forward to and live 
for, she said her son, and she often mentioned him during 
interviews. During her time in the hospital, she was also noted 
to be euthymic -- though she became tearful and upset when 
discussing her marital and custody issues. She also ate meals, 
she made phone calls to her husband and providers, and she 
participated meaningfully in therapy with her treatment team. 
She was somewhat distressed that she had to remain in the 
hospital during ___, as she felt she did not require 
an inpatient level of care, but she remained cooperative in her 
treatment despite this. 

Her presentation was assessed as most consistent with major 
depressive disorder, but without any evidence concerning for 
active suicidal ideation, despite the report of her vague 
ominous notes. Patient initially reported depressed mood, racing 
thoughts, anxiety, and guilt feelings. Diagnosis was somewhat 
complicated by her active alcohol use disorder, however, and her 
history is also concerning for bipolar affective disorder (see 
above). We recommended close follow up with outpatient therapist 
on the same day of discharge, and then also with her outpatient 
psychiatrist Dr. ___.

3. SUBSTANCE USE DISORDERS:
#) Alcohol Use Disorder
Ms. ___ described having 3 drinks on the day of admission, and 
was noted in initial history to have driven under the influence 
of alcohol recently. Her outpatient therapist (___) also 
reported that she has minimized instances of driving her son 
while intoxicated. Her initial blood alcohol level was 150. Upon 
presentation, she was placed on CIWA protocol, but did not 
require diazepam. During her hospitalization, Ms. ___ stated 
that she was confidant about achieving sobriety after discharge, 
and planned to work with her alcoholics anonymous temporary 
sponsor ___.). She said that Antabuse had been helpful to 
her in the past, but said that naltrexone was not, so we 
continued Ms. ___ home Antabuse (disulfiram) 250 mg by mouth 
each day. Unfortunately, Ms. ___ remained superficially 
optimistic regarding achieving her sobriety throughout her 
hospitalization, and did not engage significantly regarding the 
difficulty in not drinking, stating that she had no doubt at all 
that she could remain sober. In addition, upon discharge, she 
was to take transportation directly to her outpatient therapist 
to continue addressing her alcohol use disorder. 

4. MEDICAL
#) Patient was not managed for any medical problems during her 
inpatient psychiatric hospitalization. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. She 
refused all groups on ___ and ___. 

#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Ms. ___ reported frequent phone conversations with her 
husband. Her husband was away on a ski trip with her son during 
her admission, however, so we were unable to plan an in-person 
family meeting to address the conflict within the family and its 
bearing on the patient's presentation. 

#) INTERVENTIONS
- Medications: We continued Ms. ___ home psychiatric 
medications:
     She was started on Depakote ER 500 mg HS but discontinued 
it after the first  night, was concerned about possible 
side-effects.
     BuPROPion XL (Once Daily) 150 mg PO DAILY 
     Escitalopram Oxalate 20 mg PO DAILY 
   We also continued her home anti-alcohol abuse medication:
     Antabuse (disulfiram) 250 mg daily
- Psychotherapeutic Interventions: Individual therapy.
- Coordination of aftercare: 
Appointments were made with therapist ___ at Psych ___) as 
well as her outpatient psychiatrist, Dr. ___. In 
addition, Ms. ___ had an appointment with her couples 
therapist and planned to continue to receive support from her 
alcoholics anonymous temporary sponsor ___.). 

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon the 
ominous but vague notes she had written that her husband 
discovered, as well as her recent poorly controlled alcohol use 
disorder. Her static factors noted at that time include history 
of substance abuse disorder, and chronic mood disorder (without 
a clear diagnosis). The modifiable risk factors were also 
addressed at that time. In particular, we had multiple 
conversations regarding Ms. ___ stress related to her 
marriage and the question of whether she might lose some 
visitation rights to see her son. Finally, the patient is being 
discharged with many protective risk factors, forward-looking 
attitude, established outpatient treatment with a therapist and 
psychiatrist, engagement in family therapy, and support of 
temporary ___ anonymous sponsor. Overall, Ms. ___ is 
not at an acutely elevated risk of self-harm nor danger to 
others due to acutely decompensated psychiatric illness. 

She is, however, at a chronically elevated risk of active 
alcohol use disorder, as this has been an ongoing difficulty for 
her, it has been poorly controlled within the last year, and -- 
in addition -- she has many stressors in her life at this time. 

MODIFIABLE RISK FACTORS
 - disorganized and unpredictable behavior
 - medication noncompliance
 - limited coping skills
 - recent active substance abuse & intoxication
 - impulsivity
 - stressors regarding possibility of loss of custody of child

PROTECTIVE RISK FACTORS
 - help-seeking nature
 - future-oriented viewpoint
 - sense of responsibility to family
 - life satisfaction (in particular, her work)
 - reality testing ability
 - positive therapeutic relationship with outpatient providers
 - lack of suicidal ideation

Thus, I feel the patient is appropriate and safe for discharge 
at this time. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Disulfiram 250 mg PO DAILY 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  TraZODone 50 mg PO QHS:PRN insomnia (second line) 
RX *trazodone 50 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
3.  Disulfiram 250 mg PO DAILY  
4.  Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
alcohol use disorder
major depressive disorder

 
Discharge Condition:
Stable, ambulatory.

EXAM: 
___ ___ Temp: 97.6 PO BP: 125/68 HR: 62 RR: 18 O2 sat: 
100% O2 delivery: Ra 

Mental Status:
-Appearance: Well-groomed woman, appearing her stated age or 
younger. 
-Behavior/Attitude: Cooperative, open, and engaged in interview. 

-Mood: 'Better.'
-Affect: Controlled or restrained affect, but then becomes 
tearful and emotional when discussing custody issues, and when 
confronted about the degree of stress she has faced recently
-Speech: Normal volume, prosody, and rhythm. 
-Thought process: Logical, coherent, and goal-directed thought 
process. 
-Thought Content: Does not express SI or HI, or paranoid thought 
content. 
-Insight: Fair.  
-Judgment: Fair. 

Cognition: 
Fully awake, alert, oriented, and with memory and language that 
are grossly intact to interview. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___